US04377586
2-(4-methylphenyl)-6-(2-naphthalenyl)-4-pyridinecarboxylic acid (formula III: X21 is methyl, X31 and X41 form 2-naphthalenyl, X41, X50, R10, and R20 are hydrogen)
A mixture of 2.92 g (0.01 mole) of the appropriate pyridinium salt, 2.26 g (0.01 mole) of β-(2-naphthoyl)acrylic acid and 8.5 g of ammonium acetate in 20 ml of methanol is heated at reflux for 6 hr. The mixture is concentrated and the residue is diluted with water and extracted with methylene chloride. The organic layer is concentrated and the residue is chromatographed on silica gel using 5% methanol-1% acetic acid-94% methylene chloride. The product is recrystallized from ethanol yielding 1.14 g (33.6%) of the titled crystals with a melting point of 272°-274° C. The C:H:N ratio is 81.32:5.01:4.16.

reactant | β-(2-naphthoyl)acrylic acid | 0.01 mole, 2.26 g | C1=C(C=CC2=CC=CC=C12)C(=O)C=CC(=O)O | C14H10O3
reactant | ammonium acetate | 8.5 g | C(C)(=O)[O-].[NH4+]
solvent | methanol | 20 ml | CO | CH4O
product | 2-(4-methylphenyl)-6-(2-naphthalenyl)-4-pyridinecarboxylic acid | CC1=CC=C(C=C1)C1=NC(=CC(=C1)C(=O)O)C1=CC2=CC=CC=C2C=C1 | C23H17NO2
